US09447450B2
2-(7-aminonaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid
A solution of 7-aminonaphtho[2,1-d]thiazole-2-carbonitrile (24 mg, 0.106 mmol) in acetonitrile was treated with an aqueous solution containing D-cysteine (41 mg, 0.233 mmol) and K2CO3 (45 mg, 0.326 mmol). After stirring at RT for 20 min, the product was isolated by preparative HPLC eluting with a gradient of 5→100% MeCN in 10 mM aqueous NH4OAc. The appropriate fractions were concentrated under reduced pressure and then lyophilized to afford 12 mg of a yellow solid. 1H NMR (DMSO-d6) d 7.77-7.87 (m, 2H); 7.59 (d, 1H); 7.01 (dd, 1H); 6.94 (d, 1H); 5.69 (br s, 2H); 5.18 (t, 1H); 3.57-3.68 (m, 2H).

reactant | 7-aminonaphtho[2,1-d]thiazole-2-carbonitrile | 0.106 mmol, 24 mg | NC=1C=C2C=CC=3N=C(SC3C2=CC1)C#N | C12H7N3S
reactant | D-cysteine | 0.233 mmol, 41 mg | N[C@H](CS)C(=O)O | C3H7NO2S
reactant | K2CO3 | 0.326 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(7-aminonaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid | 12 mg | NC=1C=C2C=CC=3N=C(SC3C2=CC1)C=1SCC(N1)C(=O)O | C15H11N3O2S2
